US05455271
To a stirred solution of L-phenylalanine methyl ester (10.8 g, 50 mmol, hydrochloride salt) in 150 mL of 20 percent THF in water was added sodium bicarbonate (8.4 g, 100 mmol) at room temperature, followed by di-t-butyl dicarbonate (10.9 g, 50 mmol). The mixture was stirred at room temperature overnight (about 18 hours). The reaction mixture was extracted with ether (2×100 mL), and the ether layers were combined and dried over MgSO4. Boc-phenylalanine methyl ester was obtained as a pale yellow oil. The oil was dissolved in 70 mL dry toluene and cooled to -77° C. under nitrogen and 125 mmol diisobutylaluminum hydride (1.0M in hexane, 125 mL, 2.25 equivalent) were added in 15 minutes. Methanol (10 mL) was added immediately to quench the reaction. The reaction mixture was poured to a solution of 100 mL of 20 percent sodium potassium tartrate (Rochelle salt) and stirred at room temperature until the two layers separated. The organic layer was taken and concentrated in vacuo.

reactant | L-phenylalanine methyl ester | 50 mmol, 10.8 g | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | sodium bicarbonate | 100 mmol, 8.4 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 50 mmol, 10.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Boc-phenylalanine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H21NO4
